US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-[2-(dimethylamino)ethyl]urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in chloroform (5 ml), and triethylamine (0.5 ml) to prepare a solution. A solution of triphosgene (77 mg) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 10 min. Next, N1,N1-dimethyl-1,2-ethanediamine (23 mg) was added thereto, and the mixture was further stirred at room temperature for one hr. Water was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by concentration. The residue was purified on a column using chloroform/methanol to give the title compound (14 mg, yield 21%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 77 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N1,N1-dimethyl-1,2-ethanediamine | 23 mg | CN(CCN)C | C4H12N2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-[2-(dimethylamino)ethyl]urea | 14 mg, yield 21% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NCCN(C)C | C21H25N5O4
